US07781478B2
2-(4-Aminophenyl)-1-cyclobutyl-6-ethoxy-1H-indole-3-carbonitrile (50 mg, 0.15 mmol), prepared as in example 1CM, step B, is combined with 4-nitrophenyl chloroformate (76 mg, 0.38 mmol), DCE (0.5 mL), and pyridine (30 μL, 0.37 mmol). This suspension is stirred at room temperature for 1 h. Rac-cyclopropyl methyl carbinol (100 μL, 0.98 mmol) is added. This mixture is heated at 75° C. overnight. The reaction mixture is then diluted in CH2Cl2 and is washed with dilute aqueous NaOH to remove the yellow nitrophenol byproduct. The organic layer is dried and concentrated. Purification by silica gel chromatography (CH2Cl2) yields rac-[4-(3-cyano-1-cyclobutyl-6-ethoxy-1H-indol-2-yl)-phenyl]-carbamic acid 1-cyclopropyl-ethyl ester (40 mg, 60%) as a white solid.

reactant | 2-(4-Aminophenyl)-1-cyclobutyl-6-ethoxy-1H-indole-3-carbonitrile | 0.15 mmol, 50 mg | NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OCC)C1CCC1 | C21H21N3O
reactant | 4-nitrophenyl chloroformate | 0.38 mmol, 76 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | pyridine | 0.37 mmol, 30 μL | N1=CC=CC=C1 | C5H5N
reactant | Rac-cyclopropyl methyl carbinol | 0.98 mmol, 100 μL | C1(CC1)C(O)C | C5H10O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DCE | 0.5 mL | ClCCCl | C2H4Cl2
product | rac-[4-(3-cyano-1-cyclobutyl-6-ethoxy-1H-indol-2-yl)-phenyl]-carbamic acid 1-cyclopropyl-ethyl ester | 40 mg, 60% | C1(CC1)C(C)OC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OCC)C1CCC1)=O | C27H29N3O3
